US06515011B2
Aqueous sodium hydroxide (1 M, 2.67 mL) was added to a stirred solution of (2-azetidin-2-yl-5-chlorophenyl)methanol hydrochloride (0.312 g, 1.33 mmol) and trichloroethoxycarbonyl chloride (0.184 mL, 1.33 mmol) in dioxane (8 mL) and water (0.4 mL) at 0° C. The reaction was warmed to ambient temperature and after 1 h was acidified with 1 M HCl solution, extracted into ether, dried (Na2SO4) and evaporated in vacuo to an oil. The crude product was purified by flash column chromatography on silica (eluting with 5% methylene chloride/10-50% ethyl acetate/hexanes gradient) to give 2,2,2-trichloroethyl 2-[4-chloro-2-(hydroxymethyl)phenyl]azetidine-1-carboxylate (283 mg a colorless gum: 1H NMR (CDCl3, 400 MHz) δ 2.24 (br m, 1H), 2.78 (m, 1H), 4.20 (br s, 2H), 4.61 (br m, 2H), 4.68 (br m, 2H), 5.66 (dd, J=8.6, 6.4 Hz, 1H), 7.34 (m, 2H), 7.56 (d, J=8.1 Hz, 1H).

reactant | sodium hydroxide | 1 M, 2.67 mL | [OH-].[Na+]
reactant | (2-azetidin-2-yl-5-chlorophenyl)methanol hydrochloride | 1.33 mmol, 0.312 g | Cl.N1C(CC1)C1=C(C=C(C=C1)Cl)CO
reactant | trichloroethoxycarbonyl chloride | 1.33 mmol, 0.184 mL | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | HCl | 1 M | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.4 mL | O | H2O
product | 2,2,2-trichloroethyl 2-[4-chloro-2-(hydroxymethyl)phenyl]azetidine-1-carboxylate | ClC1=CC(=C(C=C1)C1N(CC1)C(=O)OCC(Cl)(Cl)Cl)CO | C13H13Cl4NO3
